US08703808B2
(Z)-3-(6-chloropyridin-3-yl)-2-(5-methoxy-1H-indol-3-yl)-acrylonitrile
To a solution of tert-butyl 3-(cyanomethyl)-5-methoxy-1H-indol-1-carboxylate (4.9 g, 17 mmol, 1.0 eq.) in anhydrous THF (400 mL) was added, under an argon atmosphere, NaH (930 mg, 80%, 31 mmol, 1.8 eq.). The mixture was stirred at room temperature for 10 minutes, and then cooled to 0° C. before the addition of 6-chloro-pyridine-3-carbaldehyde (3 g, 21 mmol, 1.2 eq.). The reaction apparatus was protected from light and the mixture was stirred at room temperature for 1 hour, and then quenched with a saturated aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate and the organic layer was dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel flash-column chromatography (eluent: CH2Cl2/EtOH, 99/1) to afford, after trituration with diethyl ether, the compound (49) as a yellow powder (3.8 g, 72%). TLC: Rf=0.40 (CH2Cl2/EtOH, 96/4); mp: 184° C.; IR νmax (cm−1): 2208 (νCN); 1H NMR (DMSO, 300 MHz) δ (ppm): 3.83 (3H, s, 5′-methoxy), 6.90 (1H, dd, J6′-7′=8.9 Hz, J6′-4′=2.1 Hz, H6′), 7.40 (1H, d, J7′-6′=8.9 Hz, H7′), 7.49 (1H, d, J4′-6′=2.4 Hz, H4′), 7.67 (1H, d, J5″-4″=8.5 Hz, H5″), 7.73 (1H, s, H3), 7.79 (1H, s, H2′), 8.37 (1H, dd, J4″-5″=8.5 Hz, J4″-2″=2.4 Hz, H4″), 8.81 (1H, d, J2″-4″=2.4 Hz, H2″), 11.70 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz) δ (ppm): 55.6 (5′-methoxy), 102.0 (C4′), 108.2 (C2), 110.1 (C3′), 112.4 (C6′), 113.2 (C7′), 117.8 (C1), 123.9 (C3a′), 124.2 (C5″), 128.0 (C2′), 130.3 (C3), 130.4 (C3″), 132.3 (C7a′), 137.9 (C4″), 149.8 (C6″), 150.2 (C2″), 154.6 (C5′); ESI-MS: 310.1 ([M+H]+), 334.1 ([M+Na]+); HRESI-MS: m/z 310.0733 (calcd for C17H13N3O35Cl+, 310.0747).

reactant | tert-butyl 3-(cyanomethyl)-5-methoxy-1H-indol-1-carboxylate | 17 mmol, 4.9 g, 1.0 eq. | C(#N)CC1=CN(C2=CC=C(C=C12)OC)C(=O)OC(C)(C)C | C16H18N2O3
reactant | NaH | 31 mmol, 930 mg, 1.8 eq. | [H-].[Na+]
reactant | 6-chloro-pyridine-3-carbaldehyde | 21 mmol, 3 g, 1.2 eq. | ClC1=CC=C(C=N1)C=O | C6H4ClNO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 EtOH | C(Cl)Cl.CCO
product | (Z)-3-(6-chloropyridin-3-yl)-2-(5-methoxy-1H-indol-3-yl)-acrylonitrile | ClC1=CC=C(C=N1)\C=C(/C#N)\C1=CNC2=CC=C(C=C12)OC | C17H12ClN3O
